US04855292
To a solution of sodium boron hydride (51.6 g) in tetrahydrofuran (500 ml) is added dropwise a solution of 2,5,6-trifluorobenzoic acid (120 g) in tetrahydrofuran (200 ml) with stirring at below 10° C., and thereto is further added dropwise a solution of BF3 ·(C2H5)2O (232 ml) in tetrahydrofuran (500 ml) under ice cooling. The mixture is stirred at room temperature overnight. The reaction mixture is poured into ice water (1.5 liter) and is extracted with diethyl ether. The extract is dried over magnesium sulfate and the solvent is distilled off under reduced pressure to give 2,3,6-trifluorobenzyl alcohol (112.7 g), as pale yellow oil, b.p. 112° C. (30 mmHg).

reactant | sodium boron hydride | 51.6 g | B.[Na]
reactant | 2,5,6-trifluorobenzoic acid | 120 g | FC1=C(C(=O)O)C(=C(C=C1)F)F | C7H3F3O2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2,3,6-trifluorobenzyl alcohol | 112.7 g | FC1=C(CO)C(=CC=C1F)F | C7H5F3O
